US08293909B2
Step 4: Preparation of methyl 5-bromo-2-(4-fluorophenyl)furo[3,2-b]pyridine-3-carboxylate.
Sodium acetate (15 mg, 0.18 mmol), K2CO3 (25 mg, 0.18 mmol), copper(II) chloride dihydrate (46 mg, 0.27 mmol), palladium(II) chloride (2.0 mg, 0.012 mmol) was added to a stirring solution of 6-bromo-2-((4-fluorophenyl)ethynyl)pyridin-3-yl acetate (30 mg, 0.090 mmol) in MeOH (2 mL) at room temperature in a Parr Bomb. The vessel was charged with 300 PSI of CO (g) and allowed to stir at room temperature overnight. The mixture was diluted with EtOAc and washed with sat NaHCO3, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated and purified on silica gel (Biotage, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give the expected product methyl 5-bromo-2-(4-fluorophenyl)furo[3,2-b]pyridine-3-carboxylate (25 mg, 0.071 mmol, 80% yield) consistent by LCMS and NMR. 1H NMR (400 MHz, DMSO-d6) d ppm 8.16 (1H, d, J=8.78 Hz), 8.04 (2H, dd, J=8.91, 5.40 Hz), 7.67 (1H, d, J=8.78 Hz), 7.44 (2H, t, J=8.78 Hz), 3.89 (3H, s). LC-MS retention time: 2.05 min; m/z (MH+): 350. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters SunFire 5 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% acetonitrile/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% acetonitrile/0.1% trifluoroacetic acid. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | Sodium acetate | 0.18 mmol, 15 mg | C(C)(=O)[O-].[Na+]
reactant | K2CO3 | 0.18 mmol, 25 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-bromo-2-((4-fluorophenyl)ethynyl)pyridin-3-yl acetate | 0.090 mmol, 30 mg | C(C)(=O)OC=1C(=NC(=CC1)Br)C#CC1=CC=C(C=C1)F | C15H9BrFNO2
solvent | MeOH | 2 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper(II) chloride dihydrate | 0.27 mmol, 46 mg | O.O.[Cu](Cl)Cl
catalyst | palladium(II) chloride | 0.012 mmol, 2.0 mg | [Pd](Cl)Cl
product | methyl 5-bromo-2-(4-fluorophenyl)furo[3,2-b]pyridine-3-carboxylate | 0.071 mmol, 25 mg, 80% yield | BrC1=CC=C2C(=N1)C(=C(O2)C2=CC=C(C=C2)F)C(=O)OC | C15H9BrFNO3
